US05559111
g) 3(S)-Isopropyl-5(S)-{1(S)-tert-butoxycarbonylamino-3(S)-isopropyl-4-[4-(3-hydroxy-propyloxy)-3-(3-methoxypropyloxy)-phenyl]-butyl}-tetrahydrofuran-2-one
To a solution, stirred at 0° C., of 106 mg of 3(S)-isopropyl-5(S)-{1(S)-amino-3(S)-isopropyl-4-[4-(3-hydroxy-propyloxy)-3-(3-methoxypropyloxy)-phenyl]-butyl}-tetrahydrofuran-2-one in 4.5 ml of dichloromethane there are added dropwise a solution of 0.07 ml of N-ethyldiisopropylamine in 0.1 ml of dichloromethane and then a solution of 77 mg of di-tert-butyl dicarbonate in 0.4 ml of dichloromethane. The reaction mixture is then brought to room temperature, is stirred at room temperature for 20 hours and is then concentrated to dryness by evaporation. Purification of the residue by means of FC (50 g of silica gel, dichloromethane/methanol=98:2) yields the title compound: Rf (dichloromethane/methanol=95:5)=0.34; HPLC Rt =19.07 minutes; FAB-MS M+ =579, (M+Na)+ =602.

reactant | 3(S)-isopropyl-5(S)-{1(S)-amino-3(S)-isopropyl-4-[4-(3-hydroxy-propyloxy)-3-(3-methoxypropyloxy)-phenyl]-butyl}-tetrahydrofuran-2-one | 106 mg | C(C)(C)[C@H]1C(O[C@@H](C1)[C@H](C[C@H](CC1=CC(=C(C=C1)OCCCO)OCCCOC)C(C)C)N)=O | C27H45NO6
reactant | N-ethyldiisopropylamine | 0.07 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 77 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 4.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.4 ml | ClCCl | CH2Cl2
product | 3(S)-Isopropyl-5(S)-{1(S)-tert-butoxycarbonylamino-3(S)-isopropyl-4-[4-(3-hydroxy-propyloxy)-3-(3-methoxypropyloxy)-phenyl]-butyl}-tetrahydrofuran-2-one | C(C)(C)[C@H]1C(O[C@@H](C1)[C@H](C[C@H](CC1=CC(=C(C=C1)OCCCO)OCCCOC)C(C)C)NC(=O)OC(C)(C)C)=O | C32H53NO8
